US08426447B2
A glass microwave reaction vessel was charged with (S)-7-bromo-3-chloro-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine (32 mg, 0.087 mmol), potassium phosphate (55.6 mg, 0.262 mmol), Amphos (1.525 mg, 2.153 μmol) and 3-pyridylboronic acid (32.2 mg, 0.262 mmol) in dioxane (0.6 mL) and water (0.200 mL). The reaction mixture was stirred and heated in a microwave at 100° C. for 30 min. The reaction mixture was diluted with water (mL) and extracted with EtOAc (2×5 mL). The organic extract was washed with saturated NH4Cl (2×5 mL) and dried over MgSO4. The solution was filtered and concentrated in vacuo to give the crude material as a yellow solid. The crude material was absorbed onto a plug of silica gel and purified by silica gel chromatography (0-10% MeOH in DCM) to provide (S)-3,7-di(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine as white solid.

reactant | (S)-7-bromo-3-chloro-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | 0.087 mmol, 32 mg | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@@]21N=C(OC1)N)Cl | C14H9BrClN3O2
reactant | potassium phosphate | 0.262 mmol, 55.6 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Amphos | 2.153 μmol, 1.525 mg | CC(CC1=CC=CC=C1)N.OP(=O)(O)O
reactant | 3-pyridylboronic acid | 0.262 mmol, 32.2 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.200 mL | O | H2O
product | (S)-3,7-di(pyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | N1=CC(=CC=C1)C1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=CC1 | C24H17N5O2
